US08404719B2
To ethyl 3-(chlorosulfonyl)benzoate (4.0 g, 16.08 mmol) in N,N-dimethylacetamide (20 mL) was added 4-(trifluoromethyl)aniline (10.37 g, 64.3 mmol) dropwise at room temperature. The mixture was stirred at room temperature for 2.5 hours, and then it was diluted with ethyl acetate (130 mL). The organic solution was washed with 1 N HCl (2×60 mL) and saturated NaCl (60 mL). The organic layer was concentrated, ethanol (40 mL) was added, and the mixture was concentrated to give ethyl 3-({[4-(trifluoromethyl)phenyl]amino}sulfonyl)benzoate.

reactant | ethyl 3-(chlorosulfonyl)benzoate | 16.08 mmol, 4.0 g | ClS(=O)(=O)C=1C=C(C(=O)OCC)C=CC1 | C9H9ClO4S
reactant | 4-(trifluoromethyl)aniline | 64.3 mmol, 10.37 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 130 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 3-({[4-(trifluoromethyl)phenyl]amino}sulfonyl)benzoate | FC(C1=CC=C(C=C1)NS(=O)(=O)C=1C=C(C(=O)OCC)C=CC1)(F)F | C16H14F3NO4S
